US07115748B2
2-(Cyclohex-1-enyl)-2-aminoethanenitrile 17E.
In a flask fitted with a mechanical stirrer, a condenser and a dropping funnel was place potassium cyanide (8.45 g, 0.13 mol) and ammonium chloride (7.65 g, 0.143 mol) in water (40 mL). To this solution was added 25 mL of concentrated ammonia. A solution of cyclohex-1-enecarboxaldehyde (14.3 g, 0.13 mol) in ether (100 mL) was added at room temperature with vigorous stirring. Stirring was continued for 3 days and then the layers were separated and the aqueous layer was extracted with ether (50 mL). The combined ether layers were washed with brine (50 mL) and evaporated under reduced pressure to give 15.5 g of an oil. The oil was dissolved in dichloromethane (100 mL) and extracted with 3 M hydrochloric acid (3×30 mL). The acidic extracts were cooled in an ice bath and basified with 75 mL of concentrated ammonia solution. Extraction with dichloromethane (50 mL) afforded 7.8 g (44%) of the title compound as an oil. NMR (CDCl3) δ 6.0–6.3(s br, 1H), 4.0–4.4(S br, 1H), 2.0–2.4(m, 4H), 1.3–2.0(m, 4H),

reactant | potassium cyanide | 0.13 mol, 8.45 g | [C-]#N.[K+]
reactant | ammonium chloride | 0.143 mol, 7.65 g | [Cl-].[NH4+]
reactant | ammonia | 25 mL | N | H3N
reactant | cyclohex-1-enecarboxaldehyde | 0.13 mol, 14.3 g | C1(=CCCCC1)C=O | C7H10O
solvent | water | 40 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-(Cyclohex-1-enyl)-2-aminoethanenitrile | 15.5 g | C1(=CCCCC1)C(C#N)N | C8H12N2
